US06320050B1
A solution of 3-(trifluoromethylthio)phenylacetic acid (5.00 g, 21.17 mmol) in methanol (50 mL) was treated slowly with 10 drops of concentrated sulfuric acid. The resulting reaction mixture was heated under reflux for 18 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove methanol. The residue was diluted with ethyl acetate (100 mL). The organic phase was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL), dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo to afford (3-trifluoromethylsulfanyl-phenyl)-acetic acid methyl ester (5.28 g, 99%) as a pale yellow oil which was used without further purification: EI-HRMS m/e calcd for C10H9F3O2S (M+) 250.0275, found 250.0274.

reactant | 3-(trifluoromethylthio)phenylacetic acid | 21.17 mmol, 5.00 g | FC(SC=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2S
reactant | methanol | 50 mL | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | (3-trifluoromethylsulfanyl-phenyl)-acetic acid methyl ester | 5.28 g, 99% | COC(CC1=CC(=CC=C1)SC(F)(F)F)=O | C10H9F3O2S
